US09079865B2
Synthesis of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(1,1-dioxotetrahydrothiophen-3yl)acrylohydrazide (I-15)
A 50-mL, 3-necked, round-bottomed flask charged with a solution of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.5 g) in EtOAc (20.0 mL) was treated with 2-(1,1-dioxotetrahydrothiophen-3-yl)hydrazine (0.3 g, 1.2 eq.). The mixture was cooled to −60° C. and treated simultaneously with T3P (50% in EtOAc; 2.0 mL, 2 eq.) and DIPEA (1 mL, 4 eq.). The reaction mixture was stirred for 30 min at −60° C. before being concentrated under reduced pressure (35° C., 20 mmHg) to afford 0.60 g of a solid residue. Purification by column chromatography (SiO2; elution with MeOH:CH2Cl2; desired compound eluted at 5% MeOH in CH2Cl2) afforded 100 mg (yield=15%) (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(tetrahydrothiophen-1-1-dioxide-3-yl)acrylohydrazide. 1H NMR (400 MHz, CD3OD) δ=9.57 (s, 1H), 8.64 (s, 2H), 8.10 (s, 1H), 7.34-7.36 (d, J=10.4 Hz, 1H), 5.89-5.92 (d, J=10.8 Hz, 1H), 4.01 (m, 1H), 3.04-3.26 (m, 4H), 2.27-2.34 (m, 2H). LCMS for C17H15F6N5O3S [M+H]+ 484.40. found 483.39 (RT 2.63 min, purity: 66.39%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 2-(1,1-dioxotetrahydrothiophen-3-yl)hydrazine | 0.3 g, 1.2 eq. | O=S1(CC(CC1)NN)=O | C4H10N2O2S
reactant | T3P | 2.0 mL, 2 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 1 mL, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 20.0 mL | CCOC(=O)C | C4H8O2
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(1,1-dioxotetrahydrothiophen-3yl)acrylohydrazide | 0.60 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1CS(CC1)(=O)=O)(F)F | C17H15F6N5O3S
